US09212336B2
5-Methoxy-3-methyl-benzofuran was prepared via methylation of 3-methyl-benzofuran-5-ol (Structure I) (prepared as above in EXAMPLEs I-III) using methyl iodide (MeI).

reactant | 3-methyl-benzofuran-5-ol | CC1=COC2=C1C=C(C=C2)O | C9H8O2
reactant | methyl iodide | CI | CH3I
product | 5-Methoxy-3-methyl-benzofuran | COC=1C=CC2=C(C(=CO2)C)C1 | C10H10O2
